US04360532
4 g of recrystallized 2-[3-(dimethylamino)propyl]-3,4-dihydro-2-methyl-2H-1-benzopyran-8-ol, acetate ester, hydrobromide (1:1), the product of Example 8, (0.012 moles) in 100 ml of methanol is treated with 1 ml of 48% HBr and refluxed for 1 hour. The solvent is evaporated and the resulting oil dissolved in 50 ml of acetonitrile and 50 ml of ethyl acetate. This is treated with DARCO (Trademark) then diluted to 250 ml with ether to give an off-white solid. Recrystallization in the same manner gives 1.7 g (47%) of 2-[3-(dimethylamino)propyl]-3,4-dihydro-2-methyl-2H-1-benzopyran-8-ol, hydrobromide (1:1), mp 132°-135° C.

reactant | 2-[3-(dimethylamino)propyl]-3,4-dihydro-2-methyl-2H-1-benzopyran-8-ol | 4 g | CN(CCCC1(OC2=C(CC1)C=CC=C2O)C)C | C15H23NO2
reactant | hydrobromide | Br | BrH
reactant | HBr | 1 ml | Br | BrH
solvent | methanol | 100 ml | CO | CH4O
product | 2-[3-(dimethylamino)propyl]-3,4-dihydro-2-methyl-2H-1-benzopyran-8-ol, hydrobromide | 1.7 g, 47% | Br.CN(CCCC1(OC2=C(CC1)C=CC=C2O)C)C | InChI=1S/C15H23NO2.BrH/c1-15(9-5-11-16(2)3)10-8-12-6-4-7-13(17)14(12)18-15;/h4,6-7,17H,5,8-11H2,1-3H3;1H
